US08664220B2
Step 3: 1-{4′-[3-Methyl-4-(4-phenyl-pyrazol-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid
1-{4′-[3-Methyl-4-(4-phenyl-pyrazol-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester (0.051 g, 0.101 mmol) was dissolved in THF (1 mL) then MeOH (0.5 mL) and NaOH (3N aq., 0.5 mL) was added and the reaction stirred at room temperature. After 8 hours the reaction was acidified with 1N aq. HCl then submitted to standard workup procedures to give the title compound.

reactant | 1-{4′-[3-Methyl-4-(4-phenyl-pyrazol-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid ethyl ester | 0.101 mmol, 0.051 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)CN1N=CC(=C1)C1=CC=CC=C1 | C32H29N3O3
reactant | MeOH | 0.5 mL | CO | CH4O
reactant | NaOH | 3N, 0.5 mL | [OH-].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-{4′-[3-Methyl-4-(4-phenyl-pyrazol-1-ylmethyl)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | CC1=NOC(=C1CN1N=CC(=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C30H25N3O3
